US07915281B2
Pyridine hydrochloride (0.020 g, 0.19 mmol), triethyl orthoacetate (2.3 g, 14 mmol), 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine (3.5 g, 9.5 mmol), and toluene (50 mL) were combined and treated according to the method of Part A of Example 26 to provide 2.307 g of 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-methyl-1H-imidazo[4,5-c]quinoline as a pale yellow solid.

reactant | triethyl orthoacetate | 14 mmol, 2.3 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine | 9.5 mmol, 3.5 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC1=CC(=NO1)C1=CC=C(C=C1)F | C19H14ClFN4O
catalyst | Pyridine hydrochloride | 0.19 mmol, 0.020 g | Cl.N1=CC=CC=C1
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-methyl-1H-imidazo[4,5-c]quinoline | 2.307 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=C(C=C2)F)C | C21H14ClFN4O
